US06057322
d) 2-Chloro-4-(4-(2-dimethylaminoethyl)phenoxy)-5-methylsulfonylbenzoyl-guanidine
268 mg of guanidine hydrochloride were dissolved in 3 ml of DMF and a solution of 286 mg of potassium t-butoxide in 3 ml of DMF is added. The mixture was stirred at RT for 3 hours, then a solution of 210 mg of methyl 2-chloro-4-(4-(2-dimethylaminoethyl)phenoxy)-5-methylsulfonylbenzoate in 4 ml of DMF was added. The mixture was stirred at RT for 3 hours and allowed to stand at RT for 18 hours. The mixture was poured onto 150 ml of water and extracted 3 times using 100 ml of EA each time. The organic phase was dried over Na2SO4 and the solvent was removed in vacuo. 230 mg of a glassy solid were obtained.

reactant | guanidine hydrochloride | 268 mg | Cl.NC(=N)N
reactant | potassium t-butoxide | 286 mg | CC(C)([O-])C.[K+]
reactant | methyl 2-chloro-4-(4-(2-dimethylaminoethyl)phenoxy)-5-methylsulfonylbenzoate | 210 mg | ClC1=C(C(=O)OC)C=C(C(=C1)OC1=CC=C(C=C1)CCN(C)C)S(=O)(=O)C | C19H22ClNO5S
reactant | water | 150 ml | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2-Chloro-4-(4-(2-dimethylaminoethyl)phenoxy)-5-methylsulfonylbenzoyl-guanidine | 230 mg | ClC1=C(C(=O)NC(=N)N)C=C(C(=C1)OC1=CC=C(C=C1)CCN(C)C)S(=O)(=O)C | C19H23ClN4O4S
